US05747487
4,5-Dihydro-4,4-dimethyl-2-[3-[(2-nitrophenyl)methyl]-2-thienyl]oxazole
To a solution of 4,5-dihydro-4,4-dimethyl-2-(2-thienyl)-oxazole (4.5 gms 25 mmol) in anhydrous ether at -70° C., n-butyl-lithium (2.5 molar solution in hexane, 11 ml) is added drop by drop under N2 atmosphere. The reaction mixture is stirred at -78° C. for 45 minutes and tri-n-butyltin chloride (8.3 gms 25 mmol) in dry ether is added drop by drop. The reaction mixture is stirred at room temperature for 1 hour and quenched with water. The reaction mixture is extracted with ether, washed well with water, dried and concentrated. The product obtain is pure enough for further transformation. The oil product, 4,5-dihydro-4,4-dimethyl-2-[(3-(tributylstannyl)-2-thienyl]-oxazole is mixed with 2-nitrobenzyl bromide (5.5 g 25 mmol) in toluene and refluxed in the presence of tetrakis (triphenylphosphine)-palladium (0) (200 mg) for 16 hours. At the end, reaction mixture is cooled to room temperature and filtered. Toluene is removed under reduced pressure and the product is isolated as brown oil by silica gel column chromatography by eluting it with 30% ethyl acetate:hexane to give 5.7 g of the desired product. Mass spectrum; M+ 316.

reactant | 4,5-dihydro-4,4-dimethyl-2-(2-thienyl)-oxazole | 25 mmol, 4.5 gms | CC1(N=C(OC1)C=1SC=CC1)C | C9H11NOS
reactant | n-butyl-lithium | 2.5 molar, 11 ml | C(CCC)[Li]
reactant | tri-n-butyltin chloride | 25 mmol, 8.3 gms | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | 2-nitrobenzyl bromide | 25 mmol, 5.5 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
solvent | ether | CCOCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis (triphenylphosphine)-palladium (0) | 200 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4,5-Dihydro-4,4-dimethyl-2-[3-[(2-nitrophenyl)methyl]-2-thienyl]oxazole | 5.7 g | CC1(N=C(OC1)C=1SC=CC1CC1=C(C=CC=C1)[N+](=O)[O-])C | C16H16N2O3S
